US04812469
N-Benzyl-4-hydroxyphenylacetamide
A mixture of 80 g of 4-hydroxyphenylacetic acid methyl ester and 51.6 g of benzylamine is brought to 180° C. for 8 hours. The mixture is allowed to return to room temperature and the crystals are filtered off and washed with ethanol and then ethyl ether.

reactant | 4-hydroxyphenylacetic acid methyl ester | 80 g | COC(CC1=CC=C(C=C1)O)=O | C9H10O3
reactant | benzylamine | 51.6 g | C(C1=CC=CC=C1)N | C7H9N
product | N-Benzyl-4-hydroxyphenylacetamide | C(C1=CC=CC=C1)NC(CC1=CC=C(C=C1)O)=O | C15H15NO2
